US04650900
N-(4-Dimethylamino-2,2-diphenyl-3-methyl-1-butyl)-urea (Lu 9-110)
A solution of 120 g of potassium cyanate in 200 ml of water was added while stirring to a solution of 220 g of N4,N4 -dimethyl-2,2-diphenyl-3-methyl-1,4-butanediamine in 1000 ml of water and 200 ml of concentrated hydrochloric acid at room temperature. The reaction mixture was stirred at room temperature for 30 minutes, filtered, and made basic with 9N sodiumhydroxide. The crystalline product was filtered and washed with water. The product was taken up in 1 liter of methanol and 200 ml water, and then 70 ml of glacial acetic acid were added. The solution was filtered, and 25% ammonium hydroxyde was added dropwise to pH=9. The product was filtered and washed successively with 500 ml methanol, 500 ml water and 500 ml methanol. The product was dried overnight in vacuo at 70° C. Yield: 204 g of pure N-(4-dimethylamino-2,2-diphenyl-3methyl-1-butyl)urea as a white powder, melting at 226°-228° C.

reactant | potassium cyanate | 120 g | [O-]C#N.[K+]
reactant | N4,N4 -dimethyl-2,2-diphenyl-3-methyl-1,4-butanediamine | 220 g | CN(CC(C(CN)(C1=CC=CC=C1)C1=CC=CC=C1)C)C | C19H26N2
solvent | water | 200 ml | O | H2O
solvent | water | 1000 ml | O | H2O
solvent | hydrochloric acid | 200 ml | Cl | ClH
product | N-(4-Dimethylamino-2,2-diphenyl-3-methyl-1-butyl)-urea | CN(CC(C(CNC(=O)N)(C1=CC=CC=C1)C1=CC=CC=C1)C)C | C20H27N3O
